US08455522B2
A flask was charged with 6-fluoro-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one (220 mg, 0.751 mmol), N-(5-bromopyridin-3-yl)ethanesulfonamide (133 mg, 0.5 mmol), K3PO4 (212 mg, 1.0 mmol) and Pd(PPh3)4 (28.9 mg, 0.025 mmol). The flask was flushed with N2 and DMF (5 mL) was added. The mixture was stirred under N2 at 100° C. for 1 h. The mixture was cooled to room temperature, diluted with EtOAc (100 mL) and filtered through a pad of celite. The celite pad was washed with EtOAc (100 mL) and the combined organic phase was washed with water (50 mL*2) and brine (50 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica chromatography eluting with a 0 to 80% EtOAc-heptane gradient to give N-(5-(6-fluoro-3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-3-yl)ethanesulfonamide. 1H NMR (400 MHz, DMSO-d6) d ppm 1.23 (t, J=7.33 Hz, 3H) 3.21 (q, J=7.33 Hz, 2H) 3.38 (s, 3H) 7.53 (d, J=6.57 Hz, 1H) 7.58 (d, J=10.11 Hz, 1H) 7.79 (q, J=1.85 Hz, 1H) 8.47 (d, J=2.27 Hz, 1H) 8.49 (t, J=1.52 Hz, 1H) 10.20 (s, 1H). HRMS: (ESI) m/z 352.0769 [(M+H)+Calcd for C15H15FN3O4S 352.07618].

reactant | 6-fluoro-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one | 0.751 mmol, 220 mg | FC1=CC2=C(N(C(O2)=O)C)C=C1B1OC(C(O1)(C)C)(C)C | C14H17BFNO4
reactant | N-(5-bromopyridin-3-yl)ethanesulfonamide | 0.5 mmol, 133 mg | BrC=1C=C(C=NC1)NS(=O)(=O)CC | C7H9BrN2O2S
reactant | K3PO4 | 1.0 mmol, 212 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.025 mmol, 28.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-(6-fluoro-3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-3-yl)ethanesulfonamide | FC1=CC2=C(N(C(O2)=O)C)C=C1C=1C=C(C=NC1)NS(=O)(=O)CC | C15H14FN3O4S
